US09403798B2
1-(4-Fluorophenyl)-3-nitro-1H-pyrrole
To a dichloromethane solution (4.0 mL) of 3-nitropyrrole (200 mg, 1.78 mmol), 4-fluorophenylboronic acid (499 mg, 3.57 mmol), and copper acetate (II) (486 mg, 2.68 mmol), N,N-diisopropylethylamine (606 μL, 3.57 mmol) was added and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was filtered with Celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (131 mg, yield 36%).

reactant | 3-nitropyrrole | 1.78 mmol, 200 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | 4-fluorophenylboronic acid | 3.57 mmol, 499 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | N,N-diisopropylethylamine | 3.57 mmol, 606 μL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | copper acetate | 2.68 mmol, 486 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | 1-(4-Fluorophenyl)-3-nitro-1H-pyrrole | 131 mg, yield 36% | FC1=CC=C(C=C1)N1C=C(C=C1)[N+](=O)[O-] | C10H7FN2O2
